US07786115B2
Methyl 3-[7-[3-(dimethylamino)propyl]-1-oxoisoquinolin-2(1H)-yl]-4-methylbenzoate (176 mg) was stirred in a solution of methanol (2 ml) and 1N NaOH solution (0.57 ml) at 65° C. for 1 hour and then neutralised with 2N HCl (0.28 ml). The reaction mixture was concentrated and the residue was purified by column chromatography on an ion exchange column (isolute SCX column from International Sorbent Technology Limited, Henoed, Mid-Glamorgan, UK) using initially methanol and then a 99:1 mixture of methanol and aqueous ammonia solution to yield 3-[7-[3-(dimethylamino)propyl]-1-oxoisoquinolin-2(1H)-yl]-4-methylbenzoic acid as a cream coloured solid (155 mg); NMR Spectrum: (DMSOd6) 1.81 (m, 2H), 2.12 (s, 3H), 2.24 (s, 6H), 2.38 (t, 2H), 2.76 (t, 2H), 6.71 (d, 1H), 7.29 (d, 1H), 7.51 (d, 1H), 7.66 (m, 2H), 7.76 (s, 1H), 7.94 (d, 1H), 8.08 (s, 1H); Mass Spectrum: M+H+ 365.

reactant | Methyl 3-[7-[3-(dimethylamino)propyl]-1-oxoisoquinolin-2(1H)-yl]-4-methylbenzoate | 176 mg | CN(CCCC1=CC=C2C=CN(C(C2=C1)=O)C=1C=C(C(=O)OC)C=CC1C)C | C23H26N2O3
reactant | NaOH | 1N, 0.57 ml | [OH-].[Na+]
reactant | HCl | 2N, 0.28 ml | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 3-[7-[3-(dimethylamino)propyl]-1-oxoisoquinolin-2(1H)-yl]-4-methylbenzoic acid | CN(CCCC1=CC=C2C=CN(C(C2=C1)=O)C=1C=C(C(=O)O)C=CC1C)C | C22H24N2O3
